US06410764B1
Preparation of 2-chloro-1,2-dihydro-2-boranaphthalene
About 10.0 ml (11.51 grams, 66.6 mmoles) of benzyl dichloroborane is dissolved in 100 ml of toluene in a 500 ml three-neck flask. Research grade acetylene is passed at a rate of 100 ml STP/min through two dry ice/acetone traps and a column (10 inches long ×1 inch ID) of activated basic alumina. The acetylene is introduced into the stirring solution through a needle below the surface of the liquid. The flask is vented to a scrubber containing 2.7 grams of NaOH in 1500 ml of water. The reaction is allowed to proceed for 3 hours. The acetylene flow is stopped and the volatiles in the reaction flask are evaporated under vacuum. 10.37 grams of colorless product are recovered. This is identified as 2-chloro-1,2-dihydro-2-boranaphthalene by NMR. This product is used in subsequent steps without further purification. The yield is 95 %.

reactant | benzyl dichloroborane | 66.6 mmoles, 10.0 ml, 11.51 grams | C(C1=CC=CC=C1)B(Cl)Cl | C7H7BCl2
reactant | acetylene | C#C | C2H2
reactant | dry ice acetone | C(=O)=O.CC(=O)C
reactant | NaOH | 2.7 grams | [OH-].[Na+]
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | 1500 ml | O | H2O
product | 2-chloro-1,2-dihydro-2-boranaphthalene | yield is 95 % | ClB1CC2=CC=CC=C2C=C1 | C9H8BCl
